US08624040B2
A solution of anhydrous DMF (142 mL, 1.85 mol) in anhydrous DCM (670 mL) was cooled to 0° C. A solution of POCl3 (121 mL, 1.3 mol) in anhydrous DCM (87 mL) was added dropwise. Upon complete addition, the solution was warmed to room temperature and further to reflux for 30 minutes. A solution of 1-benzyl-3,3-dimethylpiperidin-4-one (75 g, 0.35 mol) in anhydrous DCM (133 mL) was added all at once to the boiling solution and the mixture was further refluxed overnight. The reaction was cooled to room temperature and added dropwise to a biphasic mixture of 4.0 M aqueous sodium acetate (1000 mL) and DCM (300 mL). Upon separation of the layers, the organic layer was washed with water, dried over anhydrous Na2SO4 and concentrated to dryness to afford 1-benzyl-4-chloro-5,5-dimethyl-1,2,5,6-tetrahydropyridine-3-carbaldehyde (75 g, 82% crude yield).

reactant | DMF | 1.85 mol, 142 mL | CN(C)C=O | C3H7NO
reactant | POCl3 | 1.3 mol, 121 mL | O=P(Cl)(Cl)Cl | Cl3OP
reactant | 1-benzyl-3,3-dimethylpiperidin-4-one | 0.35 mol, 75 g | C(C1=CC=CC=C1)N1CC(C(CC1)=O)(C)C | C14H19NO
reactant | sodium acetate | 4.0 M, 1000 mL | C(C)(=O)[O-].[Na+]
solvent | DCM | 670 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 87 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 133 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 300 mL | C(Cl)Cl | CH2Cl2
product | 1-benzyl-4-chloro-5,5-dimethyl-1,2,5,6-tetrahydropyridine-3-carbaldehyde | 75 g | C(C1=CC=CC=C1)N1CC(=C(C(C1)(C)C)Cl)C=O | C15H18ClNO
